US07393852B2
A. Preparation of 1-(2-hydroxyethyl)-6,7-dihydro-1H-indazol-4(5H)-one.
2-hydroxyethyl hydrazine (1.36 mL, 20 mmol) was slowly added to an ice-cooled solution of 2-((dimethylamino)methylene)cyclohexane-1,3-dione (3.34 g) in methanol (50 mL). After stirring at room temperature for 20 min, the solvent was evaporated. Flash chromatography (SiO2, EtOAc/MeOH=100:5 to 100:7 to 100:10) gave the title compound as a white solid. B. Preparation of 1-(2-(tert-butyldimethylsilyloxy)ethyl)-6,7-dihydro-1H-indazol-4(5H)-one.

reactant | 2-hydroxyethyl hydrazine | 20 mmol, 1.36 mL | OCCNN | C2H8N2O
reactant | 2-((dimethylamino)methylene)cyclohexane-1,3-dione | 3.34 g | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
solvent | methanol | 50 mL | CO | CH4O
product | 1-(2-hydroxyethyl)-6,7-dihydro-1H-indazol-4(5H)-one | OCCN1N=CC=2C(CCCC12)=O | C9H12N2O2
